.SUBCKT gf180mcu_fd_sc_mcu9t5v0__dlyd_4 I Z VDD VSS
*.PININFO I:I Z:O VDD:P VDD:P VSS:P VSS:G
*.EQN Z=I
M_i_2_0 Z_neg I VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2 net_7 Z_neg net_1 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3 net_1 Z_neg VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_26 net_9 net_7 net_13 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3_30 net_13 net_7 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_0_0 net_15 net_9 net_11 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3_4 net_11 net_9 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_26_13 net_16 net_15 net_18 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3_30_34 net_18 net_15 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_0_10 net_14 net_16 net_19 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3_4_49 net_19 net_16 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_21 net_3 net_14 net_6 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3_6 net_6 net_14 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_0_18 Z net_3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0_18_1 Z net_3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0_18_2 Z net_3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0_18_1_15 Z net_3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_0 Z_neg I VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0 net_0 Z_neg VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1 net_7 Z_neg net_0 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0_35 net_12 net_7 VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1_47 net_9 net_7 net_12 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0_9 net_10 net_9 VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1_22 net_15 net_9 net_10 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0_35_50 net_17 net_15 VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1_47_46 net_16 net_15 net_17 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0_9_2 net_20 net_16 VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1_22_38 net_14 net_16 net_20 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0_29 net_5 net_14 VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1_39 net_3 net_14 net_5 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_3_0_0 Z net_3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_0_0_14 Z net_3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_0_0_34 Z net_3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_0_0_14_19 Z net_3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
